US04291145
Preparation of the Antimony Pentachloride-Butyl Phosphate Complex (Catalyst A).
In a round bottom flask under a nitrogen atmosphere, 8.01 g (0.0268 M) of antimony pentachloride was dissolved in 100 ml of methylene chloride. To this yellow solution was added dropwise with stirring a solution of 7.13 g (0.0268 M) of tributylphosphate in 20 ml of methylene chloride. The addition was accomplished at a rate such that the exotherm did not become excessive, the temperature being kept below the reflux temperature of methylene chloride (cooling should not be required). By the end of the addition, the initial yellow color had changed to a light brown. The reaction mixture was stirred at ambient temperature for one hour, after which time the solvent was removed by evaporation at reduced pressure. The dark brown liquid was thoroughly dried in vacuo (0.1 mm Hg). NMR (CDCl3, TMS) δ4.45(9H,q,J=6.0 Hz), 1.85(6H,m), 1.50(6H,m), 1.00(6H,t,J=6.7 Hz).

reactant | antimony pentachloride | 0.0268 M, 8.01 g | [Sb](Cl)(Cl)(Cl)(Cl)Cl
reactant | tributylphosphate | 0.0268 M, 7.13 g | C(CCC)OP(=O)(OCCCC)OCCCC | C12H27O4P
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | Antimony Pentachloride Butyl Phosphate | [Sb](Cl)(Cl)(Cl)(Cl)Cl.P(=O)(OCCCC)([O-])[O-] | InChI=1S/C4H11O4P.5ClH.Sb/c1-2-3-4-8-9(5,6)7;;;;;;/h2-4H2,1H3,(H2,5,6,7);5*1H;/q;;;;;;+5/p-7
